US05696111
EXAMPLE 7 cis-N-(2,3,4,5-tetrahydro-2-oxo-1-methyl-5-phenyl-1H-benzazepin-3-yl)-3-cyclohexylpropanamide
A solution of N-(2,3-Dihydro-2-oxo-1-methyl-5-phenyl-1H-1-benzazepin-3-yl)-3-cyclohexyl-propanamide (250 mg) in methanol (20 ml) was added to a suspension of 10% palladium on carbon (100 mg) in methanol (20 ml). This mixture was subjected to 50 psi of hydrogen on a Parr shaker for two hours. The mixture was then filtered over celite and concentrated at reduced pressure. The resulting foam was crystallized from a mixture of ethyl acetate and hexane, yielding a white solid (200 mg, 80%), which is a cis, racemic mixture. m.p. 156°-158° C.

reactant | N-(2,3-Dihydro-2-oxo-1-methyl-5-phenyl-1H-1-benzazepin-3-yl)-3-cyclohexyl-propanamide | 250 mg | O=C1N(C2=C(C(=CC1NC(CCC1CCCCC1)=O)C1=CC=CC=C1)C=CC=C2)C | C26H30N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | cis-N-(2,3,4,5-tetrahydro-2-oxo-1-methyl-5-phenyl-1H-benzazepin-3-yl)-3-cyclohexylpropanamide | 200 mg, 80% | O=C1N(C2=C([C@@H](C[C@@H]1NC(CCC1CCCCC1)=O)C1=CC=CC=C1)C=CC=C2)C | C26H32N2O2
